US09023840B2
5-{3-(Cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(2,2,2-trifluoroethyl)pyrazine-2-carboxamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 34, Step 3 starting from 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid and 2,2,2-trifluoroethanamine. LCMS (M+H)+: m/z=482.1.

reactant | 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)O)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C26H30N8O3Si
reactant | 2,2,2-trifluoroethanamine | FC(CN)(F)F | C2H4F3N
product | 5-{3-(Cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(2,2,2-trifluoroethyl)pyrazine-2-carboxamide | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)NCC(F)(F)F)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C22H18F3N9O
